US07619086B2
Step 1: 4-Cyano-4-phenyl-1-butene
To a cooled solution (−78° C.) of benzyl cyanide (5.00 g, 42.7 mmol) in anhydrous THF was added LiHMDS (1M in THF, 46.9 mL, 46.9 mmol) dropwise. After 0.5 hour, allyl bromide (5.16 g, 42.6 mmol) was added dropwise to the reaction mixture. The reaction mixture was warmed to room temperature, and the solvent was removed under vacuum. The residual material was purified using silica gel column chromatography eluting with 100% hexanes. The appropriate fractions were combined and concentrated to afford the title compound. 1H NMR (400 MHz, DMSO-d6) δ 7.44 (m, 5H), 5.81 (m, 1H), 5.12 (m, 2H), 4.35 (t, J=6.9 Hz, 1H), 2.61 (m, 2H) ppm. ES MS M+1=158.

reactant | benzyl cyanide | 42.7 mmol, 5.00 g | C(C1=CC=CC=C1)C#N | C8H7N
reactant | LiHMDS | 46.9 mmol, 1M, 46.9 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | allyl bromide | 42.6 mmol, 5.16 g | C(C=C)Br | C3H5Br
solvent | THF | C1CCOC1 | C4H8O
product | 4-Cyano-4-phenyl-1-butene | C(#N)C(CC=C)C1=CC=CC=C1 | C11H11N
